US07084139B2
tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-furylmethyl)amino]-2-oxopyrrolidin-1-yl}propanoate
A solution of tert-butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate (0.07 g) in THF (0.5 ml) was treated with diisopropyl azodicarboxylate (0.06 ml), 3-furfuryl alcohol (0.030 g) and tributylphosphine (0.075 ml) and shaken at room temperature for 18 h. The mixture was concentrated under reduced pressure and the residue purified by Biotage™ chromatography (eluting with cyclohexane:ethyl acetate 3:1) to give the title compound (0.015 g) as a colourless gum.

reactant | tert-butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate | 0.07 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C21H25ClN2O5S
reactant | diisopropyl azodicarboxylate | 0.06 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-furfuryl alcohol | 0.030 g | C1=COC=C1CO | C5H6O2
reactant | tributylphosphine | 0.075 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-furylmethyl)amino]-2-oxopyrrolidin-1-yl}propanoate | 0.015 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O)CC=1OC=CC1 | C26H29ClN2O6S
